US04557865
A. Preparation of 4-Azatricyclo[4.3.1.1.3,8 ]undecan-5-one (2)
To a suspension of 3 grams (18 mmol) of 2-adamantanone oxime in 36 ml of 20% aqueous sodium hydroxide were added 5 grams (28 mmol) of benzenesulfonyl chloride with vigorous stirring at a temperature of 20°-30° C. The temperature was maintained below 30° C. until the exothermic reaction ceased, then raised to 55° C. and held there for 2 hours. The reaction mixture was worked up leaving 2 grams of 4-azatricyclo[4.3.1.13,8 ]undecan-5-one as white crystals melting at 306°-308° C. (recrystallized from hexane).

reactant | 2-adamantanone oxime | 18 mmol, 3 grams | C12C(C3CC(CC(C1)C3)C2)=NO | C10H15NO
reactant | benzenesulfonyl chloride | 28 mmol, 5 grams | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | sodium hydroxide | 36 ml | [OH-].[Na+]
product | undecan-5-one | CCCCC(CCCCCC)=O | C11H22O
